US08420629B2
Step 5. 1-[(1-methylcyclopropyl)sulfonyl]azetidin-3-one
To a solution of oxalyl chloride (59 μL, 0.69 mmol) in methylene chloride (1.5 mL) at −78° C. was added dimethyl sulfoxide (0.10 mL, 1.5 mmol) slowly dropwise. The reaction was stirred for 15 minutes following complete addition. A solution of 1-[(1-methylcyclopropyl)-sulfonyl]azetidin-3-ol (64 mg, 0.33 mmol) in methylene chloride (1.0 mL) was added dropwise and the reaction mixture was stirred for 45 min at −60° C. Triethylamine (0.28 mL, 2.0 mmol) was added dropwise and the reaction was stirred for 15 minutes and the bath was removed and the solution allowed to warm to ambient temperature. The solvent was removed in vacuo and ethyl acetate was added. The solution was washed sequentially with saturated sodium bicarbonate solution, water and brine, dried over sodium sulfate, decanted and concentrated. The crude product was used without further purification in Step 6.

reactant | oxalyl chloride | 0.69 mmol, 59 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 1.5 mmol, 0.10 mL | CS(=O)C | C2H6OS
reactant | 1-[(1-methylcyclopropyl)-sulfonyl]azetidin-3-ol | 0.33 mmol, 64 mg | CC1(CC1)S(=O)(=O)N1CC(C1)O | C7H13NO3S
reactant | Triethylamine | 2.0 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 1-[(1-methylcyclopropyl)sulfonyl]azetidin-3-one | CC1(CC1)S(=O)(=O)N1CC(C1)=O | C7H11NO3S
